US04699905
α-[6-(1-Carboxy-3-phenylpropylamino)-2-(1-naphthyl)-5-oxoperhydro-1,4-thiazepin-4-yl]acetic acid (Compound No. 133)
216 mg of α-[6-(1-ethoxycarbonyl-3-phenylpropylamino)-2-(1-naphthyl)-5-oxoperhydro-1,4-thiazepin-4-yl]acetic acid prepared as described in Example 37, were mixed with 2 ml of a 1N aqueous solution of sodium hydroxide, and the mixture was stirred for 16 hours at room temperature. A small amount of insolubles was filtered off and the pH of the filtrate was adjusted to a value of 2.0 by adding 1N hydrochloric acid; the resulting powdery compound was collected by filtration and washed with a small amount of water, to yield 201 mg of the title compound.

reactant | α-[6-(1-ethoxycarbonyl-3-phenylpropylamino)-2-(1-naphthyl)-5-oxoperhydro-1,4-thiazepin-4-yl]acetic acid | 216 mg | C(C)OC(=O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CC=CC2=CC=CC=C12)CC(=O)O)=O | C29H32N2O5S
reactant | sodium hydroxide | [OH-].[Na+]
product | α-[6-(1-Carboxy-3-phenylpropylamino)-2-(1-naphthyl)-5-oxoperhydro-1,4-thiazepin-4-yl]acetic acid | 201 mg | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(N(CC(SC1)C1=CC=CC2=CC=CC=C12)CC(=O)O)=O | C27H28N2O5S
